### PR TITLE
[Merged by Bors] - feat(Data/List/ReduceOption): add replicate theorems

### PR DESCRIPTION
**Pull request by anthonyde**
These theorems make it easier to prove statements about `List.reduceOption`, building up to a more general theorem, `reduceOption_eq_concat_iff`, which is useful for inductive proofs.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/List/ReduceOption.lean [hunk 1]
```diff
@@ -40,6 +40,68 @@ theorem reduceOption_append (l l' : List (Option α)) :
     (l ++ l').reduceOption = l.reduceOption ++ l'.reduceOption :=
   filterMap_append l l' id
 
+@[simp]
+theorem reduceOption_replicate_of_none {n : ℕ} :
```
Comment (kim-em) [inline Mathlib/Data/List/ReduceOption.lean:44]:
```suggestion
theorem reduceOption_replicate_none {n : ℕ} :
```
We only use `of` for referring to hypotheses.

File: Mathlib/Data/List/ReduceOption.lean [hunk 2]
```diff
@@ -40,6 +40,68 @@ theorem reduceOption_append (l l' : List (Option α)) :
...
+    (replicate n (@none α)).reduceOption = [] := by
+  dsimp [reduceOption]
+  rw [filterMap_replicate_of_none]
+  rfl
+
+theorem reduceOption_eq_nil_replicate_iff (l : List (Option α)) :
```
Comment (kim-em) [inline Mathlib/Data/List/ReduceOption.lean:50]:
```suggestion
theorem reduceOption_eq_nil_iff (l : List (Option α)) :
```

File: Mathlib/Data/List/ReduceOption.lean [hunk 3]
```diff
@@ -40,6 +40,68 @@ theorem reduceOption_append (l l' : List (Option α)) :
...
+  dsimp [reduceOption]
+  rw [filterMap_eq_nil_iff]
+  constructor
+  · intro h
+    exact ⟨l.length, eq_replicate_of_mem h⟩
+  · intro ⟨_, h⟩
+    simp_rw [h, mem_replicate]
+    tauto
+
+theorem reduceOption_eq_singleton_replicate_iff (l : List (Option α)) (a : α) :
```
Comment (kim-em) [inline Mathlib/Data/List/ReduceOption.lean:61]:
```suggestion
theorem reduceOption_eq_singleton_iff (l : List (Option α)) (a : α) :
```

**Comment by kim-em** [comment]
Besides naming issues, looks good to me, thank you!

bors d+

**Comment by anthonyde** [comment]
Thanks for the review!

bors merge
